US07291635B2
The title E compound, 2-(2,4-dimethoxy-benzyl)-5-(5-{1-[-hydroxyimino]-4-methyl-pentyl}-thiophen-2-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (40 mg, 0.08 mmol) is stirred in equal volumes of CH2Cl2 and TFA (4 mL) at RT for 3 h. The volatiles are evaporated and the residue is stirred in equal volumes of MeCN/water (5 mL) for 15 min. The mixture is filtered through a 0.2, Acrodisc and the solvents are evaporated to dryness. The residue is triturated from hexane/Et2O (4:1) to afford 5-(5-{1-[(E)-hydroxyimino]-4-methyl-pentyl}-thiophen-2-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one as a light pink solid: [M+1]+=346.

reactant | 2-(2,4-dimethoxy-benzyl)-5-(5-{1-[-hydroxyimino]-4-methyl-pentyl}-thiophen-2-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.08 mmol, 40 mg | COC1=C(CN2S(N(CC2=O)CC=2SC(=CC2)C(CCC(C)C)=NO)(=O)=O)C=CC(=C1)OC | C22H29N3O6S2
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(5-{1-[(E)-hydroxyimino]-4-methyl-pentyl}-thiophen-2-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | O\N=C(/CCC(C)C)\C1=CC=C(S1)CN1CC(NS1(=O)=O)=O | C13H19N3O4S2
